data/mechanisms/records/IMS8-EQ8.4b.json
{"mechanism_id": "IMS8-EQ8.4b", "species": [{"species_id": "butyl_methyl_ketone_radical_cation", "mapped_smiles": "[CH3:1][CH2:2][CH2:3][CH2:4][C:5](=[O+:6])[CH3:7]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "acylium_ion", "mapped_smiles": "[CH3:7][C:5]#[O+:6]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "butyl_radical", "mapped_smiles": "[CH3:1][CH2:2][CH2:3][CH2:4]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["butyl_methyl_ketone_radical_cation"]}, {"state_id": "state_products", "species_ids": ["acylium_ion", "butyl_radical"]}], "steps": [{"step_id": "step_alpha_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [6]}, "target": {"type": "bond", "atom_maps": [5, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "bond", "atom_maps": [5, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "atom", "atom_maps": [4]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_cleavage", "support_type": "textbook_proposed", "locator": {"page": 141, "equation": "8.4", "section": "8.2 Product stability -- Charge competition in OE(+.) decompositions: Stevenson's Rule"}, "confidence": 0.9, "curator_note": "Eq 8.4, second branch, arrow labeled 'alpha'; instantiated with x = n-butyl. Radical-site (alpha) cleavage driven by the carbonyl oxygen radical cation: the odd electron on O6 forms the second C5-O6 pi bond (acylium CH3-C(triple bond)O+, m/z 43) while the C(butyl)-C(=O) sigma bond breaks and the butyl group departs as the neutral radical .C4H9. The page tabulates: n = 100%, s = 100%, t = 35% -- the acylium dominates for n-/s-butyl but is overtaken by t-C4H9+ once the tert-butyl-cation IE (6.7 eV) drops below that of the acetyl fragment (printed 7.0 eV). Book draws 0 arcs (summary equation); the three balanced fishhooks (O6 odd electron -> C5-O6 pi, upgrading C=O to the C(triple)O of the acylium; one electron of the C4-C5 bond -> that same pi; the second electron of C4-C5 -> the departing butyl radical) are the standard radical-site alpha-cleavage flow, reconstructed here. This is the direct homolog of the acetone alpha-cleavage of Eq 4.13 (the schema example)."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+.", "activation_method": "electron ionization", "electron_energy_ev": 70.0, "precursor_mz": 100.0883, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_acylium", "species_id": "acylium_ion", "step_id": "step_alpha_cleavage", "observed_mz": 43.0178, "relative_intensity": 1.0, "status": "proposed", "confidence": 0.9}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-25T00:00:00Z", "modified_at": "2026-07-25T00:00:00Z"}}
